US09145441B2
Compound 114d: (S)-1-[(S)-2-((S)-2-{(E)-4-[2-((R)-1-Acetoxy-ethyl)-quinolin-7-yl]-2,2-dimethyl-but-3-enoylamino}-3-methyl-butyrylamino)-3-(3-methyl-oxetan-3-ylmethoxy)-propionyl]-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloroethyl ester
To (S)-1-[(S)-2-[(S)-2-(9H-fluoren-9-ylmethoxycarbonylamino)-3-methyl-butyrylamino]-3-(3-methyl-oxetan-3-ylmethoxy)-propionyl]-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester (1.1 g, 1.46 mmol) in anhydrous acetonitrile (20 mL) at room temperature and under an atmosphere of nitrogen was added diethylamine (3.0 mL, 29.2 mmol). The reaction mixture was stirred for 2 h before concentrating in vacuo and co-evaporating from dichloromethane. This residue was dissolved in anhydrous acetonitrile (10 mL) and at 0° C. and under an atmosphere of nitrogen was added (E)-4-[2-((R)-1-acetoxy-ethyl)-quinolin-7-yl]-2,2-dimethyl-but-3-enoic acid (478 mg, 1.46 mmol), N,N-diisopropylethylamine (1.3 mL, 7.30 mmol) and 2-(1H-7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyl uronium hexafluorophosphate methanaminium (778 mg, 2.05 mmol). The solution was warmed to room temperature and stirred for 16 h. The reaction was diluted with ethyl acetate and quenched with 1 M hydrochloric acid. The organic layer was separated and washed with a saturated aqueous solution of sodium bicarbonate (2×) and brine (1×). The organic layer was then dried through a hydrophobic frit and concentrated in vacuo. The residue was purified by silica gel chromatography using iso-hexanes/ethyl acetate 1:1 then 0:1 to give the title compound (650 mg, 53%) as a viscous clear oil. 1H NMR (300 MHz, CDCl3) δ 0.89 (d, J=6.5 Hz, 3H), 0.95 (d, J=6.5 Hz, 3H), 1.22 (s, 3H), 1.49 (s, 3H), 1.63 (s, 3H), 1.69 (d, J=6.7 Hz, 3H), 1.63-1.95 (m, 4H), 2.08-2.14 (m, 1H), 2.18 (s, 3H), 3.26-3.45 (m, 3H), 3.48-3.60 (m, 1H), 3.71-3.87 (m, 2H), 3.89-4.03 (m, 1H), 4.23 (d, J=9.2 Hz, 1H), 4.27-4.41 (m, 3H), 4.47 (d, J=5.6 Hz, 1H), 4.51 (d, J=5.6 Hz, 1H), 4.67 (d, J=11.8 Hz, 1H), 4.92 (d, J=11.8 Hz, 1H), 5.69-5.80 (m, 1H), 6.06 (q, J=6.5 Hz, 1H), 6.39 (d, J=8.3 Hz, 1H), 6.67 (d, J=7.8 Hz, 1H), 6.64, 6.78 (ABq, J=16.3 Hz, 2H), 7.44 (d, J=8.5 Hz, 1H), 7.63-7.71 (m, 1H), 7.77 (d, J=8.5 Hz, 1H), 8.05 (s, 1H), 8.13 (d, J=8.5 Hz, 1H). LCMS (m/z) 842.4 [M+H], Tr=3.02 min.

reactant | (S)-1-[(S)-2-[(S)-2-(9H-fluoren-9-ylmethoxycarbonylamino)-3-methyl-butyrylamino]-3-(3-methyl-oxetan-3-ylmethoxy)-propionyl]-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester | 1.46 mmol, 1.1 g | ClC(COC(=O)[C@H]1NN(CCC1)C([C@H](COCC1(COC1)C)NC([C@H](C(C)C)NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)=O)=O)(Cl)Cl | C35H43Cl3N4O8
reactant | diethylamine | 29.2 mmol, 3.0 mL | C(C)NCC | C4H11N
reactant | (E)-4-[2-((R)-1-acetoxy-ethyl)-quinolin-7-yl]-2,2-dimethyl-but-3-enoic acid | 1.46 mmol, 478 mg | C(C)(=O)O[C@H](C)C1=NC2=CC(=CC=C2C=C1)/C=C/C(C(=O)O)(C)C | C19H21NO4
reactant | N,N-diisopropylethylamine | 7.30 mmol, 1.3 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-(1H-7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyl uronium hexafluorophosphate methanaminium | 2.05 mmol, 778 mg | C[NH3+].F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C.F[P-](F)(F)(F)(F)F
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | (S)-1-[(S)-2-((S)-2-{(E)-4-[2-((R)-1-Acetoxy-ethyl)-quinolin-7-yl]-2,2-dimethyl-but-3-enoylamino}-3-methyl-butyrylamino)-3-(3-methyl-oxetan-3-ylmethoxy)-propionyl]-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloroethyl ester | 650 mg, 53% | ClC(COC(=O)[C@H]1NN(CCC1)C([C@H](COCC1(COC1)C)NC([C@H](C(C)C)NC(C(\C=C\C1=CC=C2C=CC(=NC2=C1)[C@@H](C)OC(C)=O)(C)C)=O)=O)=O)(Cl)Cl | C39H52Cl3N5O9
